### PR TITLE
[Merged by Bors] - feat(Probability): characterize conditional independence with conditional distributions

### PR DESCRIPTION
**Pull request by RemyDegenne**
Two random variables `f, g` are conditionally independent given a third `k` iff the conditional distribution of `f` given `k` and `g` is equal to the conditional distribution of `f` given `k`.
```lean
CondIndepFun (mγ.comap k) hk.comap_le g f μ ↔
  condDistrib f (fun ω ↦ (k ω, g ω)) μ =ᵐ[μ.map (fun ω ↦ (k ω, g ω))]
    (condDistrib f k μ).prodMkRight _ 
```

From the LeanBandits project.

---

- [x] depends on: #29555
- [x] depends on: #29884

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Kernel/Composition/Lemmas.lean [hunk 1]
```diff
@@ -21,6 +21,38 @@ variable {α β γ δ : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace
...
+      simp [Measure.dirac_bind (Kernel.measurable _)]
+    · refine (Measurable.lintegral_kernel ?_).comp measurable_prodMk_left
+      exact measurable_measure_prodMk_left hs
+    · exact (Kernel.measurable_coe _ hs).comp measurable_prodMk_left
+  · refine (Measurable.lintegral_kernel ?_).aemeasurable
+    exact measurable_measure_prodMk_left hs
+  · fun_prop
+  · exact (measurable_measure_prodMk_left hs).aemeasurable
+  · exact (Kernel.measurable_coe _ hs).aemeasurable
+  · fun_prop
```
Comment (EtienneC30) [inline Mathlib/Probability/Kernel/Composition/Lemmas.lean]: Here is a shorter proof relying on [ProbabilityTheory.Kernel.lintegral_prod_deterministic](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Probability/Kernel/Composition/Prod.html#ProbabilityTheory.Kernel.lintegral_prod_deterministic):
```suggestion
  rw [prod_apply' _ _ _ hs, comp_apply' _ _ _ hs, lintegral_prod_deterministic,
    lintegral_comp, lintegral_prod_deterministic]
  · congr with b
    rw [prod_apply' _ _ _ hs, prodMkLeft_apply, comp_deterministic_eq_comap, comap_apply]
  · exact (measurable_measure_prodMk_left hs).lintegral_kernel
  · exact measurable_measure_prodMk_left hs
  · exact Kernel.measurable_coe _ hs
```

File: Mathlib/Probability/Independence/Conditional.lean [hunk 2]
```diff
@@ -790,6 +790,115 @@ lemma condIndepFun_iff_map_prod_eq_prod_comp_trim
...
+/-- Two random variables `f, g` are conditionally independent given a third `k` if the
+joint distribution of `k, f, g` factors into a product of their conditional distributions
+given `k`. -/
+theorem condIndepFun_iff_map_prod_eq_prod_condDistrib_prod_condDistrib
+    {γ : Type*} {mγ : MeasurableSpace γ} {mβ : MeasurableSpace β} {mβ' : MeasurableSpace β'}
+    [StandardBorelSpace β] [Nonempty β] [StandardBorelSpace β'] [Nonempty β']
+    (hf : Measurable f) (hg : Measurable g) {k : Ω → γ} (hk : Measurable k) :
+    CondIndepFun _ hk.comap_le f g μ
+      ↔ μ.map (fun ω ↦ (k ω, f ω, g ω))
+        = (Kernel.id ×ₖ (condDistrib f k μ ×ₖ condDistrib g k μ)) ∘ₘ μ.map k := by
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Conditional.lean]: I think infix symbols are supposed to go before line breaks (from the style guide):
> Use spaces on both sides of ":", ":=" or infix operators. Put them before a line break rather than at the beginning of the next line.
```suggestion
      ↔ μ.map (fun ω ↦ (k ω, f ω, g ω)) =
        (Kernel.id ×ₖ (condDistrib f k μ ×ₖ condDistrib g k μ)) ∘ₘ μ.map k := by
```

File: Mathlib/Probability/Independence/Conditional.lean [hunk 3]
```diff
@@ -790,6 +790,115 @@ lemma condIndepFun_iff_map_prod_eq_prod_comp_trim
...
+  rw [condIndepFun_iff_map_prod_eq_prod_comp_trim hf hg]
+  simp_rw [Measure.ext_prod₃_iff]
+  have hk_meas {s : Set γ} (hs : MeasurableSet s) : MeasurableSet[mγ.comap k] (k ⁻¹' s) :=
+    ⟨s, hs, rfl⟩
+  have h_left {s : Set γ} {t : Set β} {u : Set β'} (hs : MeasurableSet s) (ht : MeasurableSet t)
+      (hu : MeasurableSet u) :
+      (μ.map (fun ω ↦ (k ω, f ω, g ω))) (s ×ˢ t ×ˢ u)
+        = (@Measure.map _ _ _ ((mγ.comap k).prod inferInstance)
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Conditional.lean]:
```suggestion
      (μ.map (fun ω ↦ (k ω, f ω, g ω))) (s ×ˢ t ×ˢ u) =
        (@Measure.map _ _ _ ((mγ.comap k).prod inferInstance)
```

File: Mathlib/Probability/Independence/Conditional.lean [hunk 4]
```diff
@@ -790,6 +790,115 @@ lemma condIndepFun_iff_map_prod_eq_prod_comp_trim
...
+      Measure.bind_apply (hs.prod (ht.prod hu)) (by fun_prop), lintegral_map ?_ (by fun_prop),
+      lintegral_trim]
+    rotate_left
+    · exact Kernel.measurable_coe _ ((hk_meas hs).prod (ht.prod hu))
+    · exact Kernel.measurable_coe _ (hs.prod (ht.prod hu))
+    refine lintegral_congr_ae ?_
+    filter_upwards [condDistrib_apply_ae_eq_condExpKernel_map hf hk ht,
+      condDistrib_apply_ae_eq_condExpKernel_map hg hk hu] with a haX haT
+    simp_rw [Kernel.prod_apply_prod]
+    simp only [Kernel.id_apply, Measure.dirac_apply' _ hs]
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Conditional.lean]:
```suggestion
    simp only [Kernel.prod_apply_prod, Kernel.id_apply, Measure.dirac_apply' _ hs]
```

File: Mathlib/Probability/Independence/Conditional.lean [hunk 5]
```diff
@@ -790,6 +790,115 @@ lemma condIndepFun_iff_map_prod_eq_prod_comp_trim
...
+    rw [@Measure.dirac_apply' _ (mγ.comap k) _ _ (hk_meas hs)]
+    congr
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · intro s t u hs ht hu
+    specialize h (s := k ⁻¹' s) (hk_meas hs) ht hu
+    convert h
+    · exact h_left hs ht hu
+    · exact h_right hs ht hu
+  · rintro _ t u ⟨s, hs, rfl⟩ ht hu
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Conditional.lean]: This removes the hypothesis:
```suggestion
  · rintro - t u ⟨s, hs, rfl⟩ ht hu
```

File: Mathlib/Probability/Independence/Conditional.lean [hunk 6]
```diff
@@ -790,6 +790,115 @@ lemma condIndepFun_iff_map_prod_eq_prod_comp_trim
...
+    filter_upwards [condDistrib_apply_ae_eq_condExpKernel_map hf hk ht,
+      condDistrib_apply_ae_eq_condExpKernel_map hg hk hu] with a haX haT
+    simp_rw [Kernel.prod_apply_prod]
+    simp only [Kernel.id_apply, Measure.dirac_apply' _ hs]
+    rw [@Measure.dirac_apply' _ (mγ.comap k) _ _ (hk_meas hs)]
+    congr
+  refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+  · intro s t u hs ht hu
+    specialize h (s := k ⁻¹' s) (hk_meas hs) ht hu
+    convert h
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Conditional.lean]:
```suggestion
  refine ⟨fun h s t u hs ht hu ↦ ?_, fun h ↦ ?_⟩
  · convert h (hk_meas hs) ht hu
```

File: Mathlib/Probability/Independence/Conditional.lean [hunk 7]
```diff
@@ -790,6 +790,115 @@ lemma condIndepFun_iff_map_prod_eq_prod_comp_trim
...
+    · exact h_left hs ht hu
+    · exact h_right hs ht hu
+  · rintro _ t u ⟨s, hs, rfl⟩ ht hu
+    specialize h hs ht hu
+    convert h
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Conditional.lean]:
```suggestion
    convert h hs ht hu
```

File: Mathlib/Probability/Independence/Conditional.lean [hunk 8]
```diff
@@ -790,6 +790,115 @@ lemma condIndepFun_iff_map_prod_eq_prod_comp_trim
...
+/-- Two random variables `f, g` are conditionally independent given a third `k` if the
+conditional distribution of `g` given `k` and `f` is equal to the conditional distribution of `g`
+given `k`. -/
+theorem condIndepFun_iff_condDistrib_prod_ae_eq_prodMkLeft
+    {γ : Type*} {mγ : MeasurableSpace γ} {mβ : MeasurableSpace β} {mβ' : MeasurableSpace β'}
+    [StandardBorelSpace β] [Nonempty β] [StandardBorelSpace β'] [Nonempty β']
+    (hf : Measurable f) (hg : Measurable g) {k : Ω → γ} (hk : Measurable k) :
+    CondIndepFun (mγ.comap k) hk.comap_le g f μ
+      ↔ condDistrib g (fun ω ↦ (f ω, k ω)) μ
+          =ᵐ[μ.map (fun ω ↦ (f ω, k ω))] (condDistrib g k μ).prodMkLeft β := by
```
Comment (EtienneC30) [inline Mathlib/Probability/Independence/Conditional.lean]:
```suggestion
      ↔ condDistrib g (fun ω ↦ (f ω, k ω)) μ =ᵐ[μ.map (fun ω ↦ (f ω, k ω))]
        (condDistrib g k μ).prodMkLeft β := by
```

Comment (EtienneC30) [inline Mathlib/Probability/Independence/Conditional.lean]: Is there a reason why you spelt things like that instead of keeping the order `(k, f, g)` as in the previous result? I feel like it would save you from using equivalences (I didn't check, just asking).

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/Probability/Independence/Conditional.lean (hunk 2 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Independence/Conditional.lean]: Oh damn the style guide really says that. I don't know how many thousands occurrences of that style mistake I added to the library.

File: Mathlib/Probability/Independence/Conditional.lean (hunk 8 above)
Comment (RemyDegenne) [reply Mathlib/Probability/Independence/Conditional.lean]: ~~The only two I could meaningfully swap are f and k, and there would still be equivalences, wouldn't it?~~
Checking.

Comment (RemyDegenne) [reply Mathlib/Probability/Independence/Conditional.lean]: It looks like the best I can do still has a prodAssoc equivalence. But that's better than all the shuffling I do now.

Comment (EtienneC30) [reply Mathlib/Probability/Independence/Conditional.lean]: I think that if you used `fun ω ↦ ((k ω, f ω), g ω)` or `fun ω ↦ (f ω, g ω, k ω)` in `condIndepFun_iff_map_prod_eq_prod_condDistrib_prod_condDistrib` you wouldn't need equivalence at all, but maybe that would make the other proof a bit more complicated. I don't think it is really important.

**Comment by EtienneC30** [comment]
maintainer merge

File: Mathlib/Probability/Independence/Conditional.lean [hunk 9]
```diff
@@ -790,6 +790,103 @@ lemma condIndepFun_iff_map_prod_eq_prod_comp_trim
     rfl
   · rw [Measure.compProd_eq_comp_prod]
 
+/-- Two random variables `f, g` are conditionally independent given a third `k` if the
```
Comment (sgouezel) [inline Mathlib/Probability/Independence/Conditional.lean]:
```suggestion
/-- Two random variables `f, g` are conditionally independent given a third `k` iff the
```

File: Mathlib/Probability/Independence/Conditional.lean [hunk 10]
```diff
@@ -790,6 +790,103 @@ lemma condIndepFun_iff_map_prod_eq_prod_comp_trim
...
+  refine ⟨fun h s t u hs ht hu ↦ ?_, fun h ↦ ?_⟩
+  · convert h (hk_meas hs) ht hu
+    · exact h_left hs ht hu
+    · exact h_right hs ht hu
+  · rintro - t u ⟨s, hs, rfl⟩ ht hu
+    convert h hs ht hu
+    · exact (h_left hs ht hu).symm
+    · exact (h_right hs ht hu).symm
+
+/-- Two random variables `f, g` are conditionally independent given a third `k` if the
```
Comment (sgouezel) [inline Mathlib/Probability/Independence/Conditional.lean]:
```suggestion
/-- Two random variables `f, g` are conditionally independent given a third `k` iff the
```

File: Mathlib/Probability/Kernel/Composition/Lemmas.lean [hunk 11]
```diff
@@ -21,6 +21,46 @@ variable {α β γ δ : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace
   {mγ : MeasurableSpace γ} {mδ : MeasurableSpace δ}
   {μ : Measure α} {ν : Measure β} {κ : Kernel α β}
 
+namespace ProbabilityTheory.Kernel
+
+/-- If `κ` was deterministic, this would be true even if `η.prodMkLeft β` was a more general
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Composition/Lemmas.lean]: This docstring is a comment on the lemma, but it doesn't really say what the content of the lemma is. Could you add a brief explanation of the content?

File: Mathlib/Probability/Kernel/Composition/Lemmas.lean [hunk 12]
```diff
@@ -21,6 +21,46 @@ variable {α β γ δ : Type*} {mα : MeasurableSpace α} {mβ : MeasurableSpace
...
+  ext ω s hs
+  rw [prod_apply' _ _ _ hs, comp_apply' _ _ _ hs, lintegral_prod_deterministic,
+    lintegral_comp, lintegral_prod_deterministic]
+  · congr with b
+    rw [prod_apply' _ _ _ hs, prodMkLeft_apply, comp_deterministic_eq_comap, comap_apply]
+  · exact (measurable_measure_prodMk_left hs).lintegral_kernel
+  · exact measurable_measure_prodMk_left hs
+  · exact Kernel.measurable_coe _ hs
+
+/-- If `κ` was deterministic, this would be true even if `η.prodMkRight β` was a more general
```
Comment (sgouezel) [inline Mathlib/Probability/Kernel/Composition/Lemmas.lean]: ditto

**Review by sgouezel — COMMENTED** [review]
The PR text (with prodMk_left) does not correspond to what is proved in the PR. Can you fix that?

bors d+
